US07576115B2
Synthesis of N′-[1-{5-(4-tert-butylphenyl)-4-hydroxythiophen-3-yl}ethylidene]-4-(4-methylpiperazine-1-carbonyl)-3-nitrobenzohydrazide
To a N-methyl-2-pyrrolidinone (1.0 mL) solution of 2-nitro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]-ethylidene}hydrazino)carbonyl]benzoic acid (50 mg, 0.10 mmol, see the synthetic example 47) and triethylamine (16 μL, 0.11 mmol) was added isobutyl chloroformate (26 μL, 0.20 mmol) at 0° C. The reaction mixture was stirred for 2 hours at this temperature, and then N-methyl piperazine (45 μL, 0.40 mmol) was added. After stirring for 1 hour is at room temperature, the reaction mixture was acidified with 1M aqueous HCl solution (1.0 mL) and concentrated under the reduced pressure. To the residue was added water, then the precipitate was collected by filtration, washed with water, isopropanol and methanol, then dried by means of a vacuum pump to give the desired product as a pale yellow solid (yield 10%).

reactant | 2-nitro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]-ethylidene}hydrazino)carbonyl]benzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(C)(C)C | C24H23N3O6S
reactant | triethylamine | 0.11 mmol, 16 μL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.20 mmol, 26 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl piperazine | 0.40 mmol, 45 μL | CN1CCNCC1 | C5H12N2
reactant | HCl | 1M, 1.0 mL | Cl | ClH
solvent | N-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | N′-[1-{5-(4-tert-butylphenyl)-4-hydroxythiophen-3-yl}ethylidene]-4-(4-methylpiperazine-1-carbonyl)-3-nitrobenzohydrazide | yield 10% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(C1=CC(=C(C=C1)C(=O)N1CCN(CC1)C)[N+](=O)[O-])=O)O | C29H33N5O5S
